US08809529B2
Synthesis of 8-benzyl-2-ethyl-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one (PBI-3925)
2-((3-benzyl-5-phenylpyrazin-2-yl)amino)butanoic acid was dissolved in DCM (10 mL). Pyridine (0.5 mL) was added followed by N,N′-Dicyclohexylcarbodiimide (137 mg, 0.67 mmol). The reaction mixture was slowly stirred at room temperature for 1 hr. The solvent was evaporated, and the residue purified by flash chromatography (eluting solvent: EtOAc to DCM to 10% methanol in DCM) to give the product as a yellow powder (110 mg, 89%). 1H NMR (300 MHz, CD3OD, δ): 7.26 (m, 3H), 6.84-7:07 (m, 8H), 4.03 (s, 2H), 2.47 (q, J=9.0 Hz, 2H), 0.96 (t, J=9.0 Hz, 3H); MS (ESI): m/z 330.2 (M+1).

reactant | 2-((3-benzyl-5-phenylpyrazin-2-yl)amino)butanoic acid | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=CC=C1)NC(C(=O)O)CC | C21H21N3O2
reactant | Pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | N,N′-Dicyclohexylcarbodiimide | 0.67 mmol, 137 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-benzyl-2-ethyl-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one | 110 mg, 89% | C(C1=CC=CC=C1)C1=C2N(C=C(N1)C1=CC=CC=C1)C(C(=N2)CC)=O | C21H19N3O
